US05672715
To a mechanically stirred solution of 10 g of 5-[4-bromo-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-2-chloro-4-fluorobenzoic acid in 400 ml of anhydrous tetrahydrofuran under a nitrogen atmosphere was added 1.0 g of 95% sodium hydride. After the foaming subsided, the reaction was stirred and heated to 60° C. for one hour to ensure complete anion formation of the acid. The reaction was cooled to -110° C. with vigorous stirring and a 10.8 mL of 2.5M n-butyl lithium in hexanes was added maintaining the temperature below -100° C. As soon as the addition of n-butyl lithium was completed, 10 mL of dimethyl formamide was added and the solution was allowed to warm to -20° C. The reaction was then quenched with 3N HCl, and most of the volatiles were removed from the reaction mixture. The precipitate was filtered and recrystalized from carbon tetrachloride to give-3.0 g of 2-chloro-4-fluoro-5-[4-formyl-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid: mp 163° C.; 1HNMR (CDCl3) ppm: 9.82 (s, 1H), 7.89 (d, 1H, J=7.6), 7.07 (d, 1H, J=9.2), 3.39 (s, 3H). 19FNMR (CDCl3) ppm: -57.78, -107.41.

reactant | 5-[4-bromo-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-2-chloro-4-fluorobenzoic acid | 10 g | BrC=1C(=NN(C1C(F)(F)F)C)C=1C(=CC(=C(C(=O)O)C1)Cl)F | C12H6BrClF4N2O2
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | n-butyl lithium | 2.5M, 10.8 mL | C(CCC)[Li]
reactant | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-fluoro-5-[4-formyl-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid | 3.0 g | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=NN(C(=C1C=O)C(F)(F)F)C | C13H7ClF4N2O3
